US07189851B2
Ethyl(9aS)-4-(4-{[(3,4-difluorobenzyl)amino]carbonyl}-2-thienyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate
5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-thiophenecarboxylic acid (0.100 g, 0.202 mmol) was dissolved in CH2Cl2. 3,4-difluorobenzylamine (0.036 mL, 0.303 mmol) was added followed by EDCI (0.047 g, 0.243 mmol) and HOBt (0.033 g, 0.243 mmol). After 14 h of stirring at ambient temperature the reaction mixture was poured onto 5% HCl solution and extracted with CH2Cl2. The organics were washed with sat'd NaHCO3, brine and then dried (Na2SO4), filtered and concentrated to a brown residue. Chromatography on silica gel using 3:1 EtOAc:Hexanes eluted the product to provide the title compound upon concentration as a white solid (0.065 g, 0.105 mmol, 52% yield): 1H NMR (CDCl3, 400 MHz) δ 8.06 (s, 1H), 7.48 (s, 1H), 7.17–7.03 (m, 5H), 6.97 (t, J=8.6 Hz, 2H), 6.96 (m, 1H), 4.69 (dd, J=10.4, 6.3 Hz, 1H), 4.51 (d, J=5.8 Hz, 2H), 4.16 (dd, J=14.3, 7.0 Hz, 2H), 3.73–3.63 (m, 1H), 3.42–3.36 (m, 1H), 3.19–2.99 (m, 4H), 2.51–2.43 (m, 1H), 2.39–2.27 (m, 2H), 1.41–1.34 (m, 1H), 1.09 (t, 7.1 Hz); ESMS m/z 620 (M+H)+, 618 (M−H)+; Anal. Calcd. For C33H28F3N3O4S: C, 63.96; H, 4.55; N, 6.78; found C, 64.03; H, 4.58; N, 6.73.

reactant | 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-thiophenecarboxylic acid | 0.202 mmol, 0.100 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC1=CC=C(C=C1)F)C1=CC(=CS1)C(=O)O | C26H23FN2O5S
reactant | 3,4-difluorobenzylamine | 0.303 mmol, 0.036 mL | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | EDCI | 0.243 mmol, 0.047 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.243 mmol, 0.033 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl(9aS)-4-(4-{[(3,4-difluorobenzyl)amino]carbonyl}-2-thienyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | FC=1C=C(CNC(=O)C=2C=C(SC2)C2=C(C(=NC3=C2C(N2CCC[C@@H]32)=O)CCC3=CC=C(C=C3)F)C(=O)OCC)C=CC1F | C33H28F3N3O4S
